### PR TITLE
chore(Algebra): consolidate variables and sections for `AlgHom`/`AlgEquiv`

### PR DESCRIPTION
**Pull request by smmercuri**
This is a preparatory PR for the refactor of `AlgHom` to be semilinear (see #38376). This PR does not add or remove any results and only moves things around to reduce the diff for the future refactor. Namely, we do the following:
- Re-order variables in `AlgHom` and `AlgEquiv` so that `CommSemiring R` directly follows `R`. This is needed in the semialgebra definition. 
- Move `comp` and `trans` API later in respective files so that the extra variables needed for those lemmas can be sectioned better.
- Similarly move some `congr` results in `Equiv.lean` to their own sections.
- Align variable names in `Equiv.lean` to match `Hom.lean`

---

- [x] depends on: #38950 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by smmercuri** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/52d5276c5d4ca93464f4a74762bed0b7d0a475a7?reference=25e35a45b208f060b7165770fc7f723b8b92a53e) for 52d5276c5d4ca93464f4a74762bed0b7d0a475a7 against 25e35a45b208f060b7165770fc7f723b8b92a53e are in. No significant results found. @smmercuri

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run main differ between commits.

- 🟥 `build//instructions`: **+194.0G** (**+0.13%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Algebra.Algebra.Equiv//instructions`: **-2.4G** (**-5.68%**)

**Small changes (2✅, 1🟥)**

- 🟥 `build//instructions`: **+194.0G** (**+0.13%**)
- ✅ `build/module/Mathlib.Algebra.Algebra.Hom//instructions`: **-801.0M** (**-3.93%**)
- ✅ `build/module/Mathlib.RingTheory.Smooth.NoetherianDescent//instructions`: **-1.7G** (**-2.09%**)

and 1 hidden

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -24,12 +24,12 @@ This file defines bundled isomorphisms of `R`-algebras.
 
 @[expose] public section
 
-universe u v w u₁ v₁ u₂ u₃
+universe uR uS uA uB
```
Comment (Multramate) [inline Mathlib/Algebra/Algebra/Equiv.lean]: Let's just use `Type*` --- c.f. @tb65536

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 2]
```diff
@@ -245,152 +231,124 @@ section symm
...
-
-@[simp] lemma self_trans_symm (e : A₁ ≃ₐ[R] A₂) : e.trans e.symm = refl := by ext; simp
-@[simp] lemma symm_trans_self (e : A₁ ≃ₐ[R] A₂) : e.symm.trans e = refl := by ext; simp
-
-@[simp, norm_cast]
-lemma toRingHom_trans (e₁ : A₁ ≃ₐ[R] A₂) (e₂ : A₂ ≃ₐ[R] A₃) :
-    (e₁.trans e₂ : A₁ →+* A₃) = .comp e₂ (e₁ : A₁ →+* A₂) := rfl
-
-end trans
+section cast
```
Comment (Multramate) [inline Mathlib/Algebra/Algebra/Equiv.lean]: We don't need this section

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 3]
```diff
@@ -892,9 +916,13 @@ lemma AlgEquiv.default_apply [Subsingleton S] [Subsingleton T] (x : S) :
 
 end
 
+section ulift
+
+universe w
```
Comment (Multramate) [inline Mathlib/Algebra/Algebra/Equiv.lean:924]: Unused? I think we can remove it in favour of Type* anyway.

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 4]
```diff
@@ -24,11 +24,11 @@ This file defines bundled homomorphisms of `R`-algebras.
 
 @[expose] public section
 
-universe u v w u₁ v₁
+universe uR uA uB
```
Comment (Multramate) [inline Mathlib/Algebra/Algebra/Hom.lean]: Ditto

**Review by Multramate — APPROVED** [review]
I think this is great, thanks! Given that you're playing around with the universe variables right now, it might be a good time to remove them in favour of Type*.

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 3 above)
Comment (smmercuri) [reply Mathlib/Algebra/Algebra/Equiv.lean:924]: This one is needed in the end for the definition of `ulift`
